US08975254B2
b) 3-Acetyl-4-chloro-1H-pyrazole-5-carboxylic acid
To a mixture containing methyl 3-acetyl-4-chloro-1H-pyrazole-5-carboxylate (1.3 g, 0.0064 mol) in THF (30 ml), lithium hydroxide (1.35 g, 0.032 mol) in water (15 ml) was added dropwise at 5-10° C. The reaction mixture was stirred at RT for 18 h. Cold water (15 ml) was added and the pH was adjusted to ˜4 with 1N potassium bisulfate. The product was extracted with ethyl acetate, the organic layer dried with anhydrous Na2SO4 and concentrated. The crude product was purified by recrystallization from diethyl ether/n-hexane. Yield 56%. 1H-NMR (400 MHz; DMSO-d6): δ 2.57 (s, 3H), 13.91 (bs, 1H), 14.69 (s, 1H).

reactant | methyl 3-acetyl-4-chloro-1H-pyrazole-5-carboxylate | 0.0064 mol, 1.3 g | C(C)(=O)C1=NNC(=C1Cl)C(=O)OC | C7H7ClN2O3
reactant | lithium hydroxide | 0.032 mol, 1.35 g | [OH-].[Li+]
reactant | potassium bisulfate | 1N | S([O-])(O)(=O)=O.[K+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 15 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 3-Acetyl-4-chloro-1H-pyrazole-5-carboxylic acid | Yield 56% | C(C)(=O)C1=NNC(=C1Cl)C(=O)O | C6H5ClN2O3
